US05130119
(d) 3-[N-(2,4,6-Trifluorophenyl)sulfamoyl]-benzoic acid-(2,3,4-trihydroxy-butyl)amide
4.74 g (10 mmol) of 3-[N-(2,4,6-trifluorophenyl)sulfamoyl]-benzoic acid-[2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamide] is dissolved in a mixture of 50 ml of ethanol and 20 ml of water and the solution is acidified to pH 1 with dilute hydrochloric acid. At this pH, it is stirred for 4 hours at 60° C. The solution is then adjusted to pH 6.6 with anion exchanger Amberlite IRA 67, filtered and evaporated to dryness in a vacuum. The solid amorphous residue is dried in a vacuum at 50° C. 3.61 g (8.32 mmol)=83.2% of the theoretical yield is obtained as an amorphous solid.

reactant | 3-[N-(2,4,6-trifluorophenyl)sulfamoyl]-benzoic acid-[2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamide] | 10 mmol, 4.74 g | OC(CNC(C1=CC(=CC=C1)S(NC1=C(C=C(C=C1F)F)F)(=O)=O)=O)C1OC(OC1)(C)C | C20H21F3N2O6S
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 3-[N-(2,4,6-Trifluorophenyl)sulfamoyl]-benzoic acid-(2,3,4-trihydroxy-butyl)amide | OC(CNC(C1=CC(=CC=C1)S(NC1=C(C=C(C=C1F)F)F)(=O)=O)=O)C(CO)O | C17H17F3N2O6S
